### PR TITLE
[Merged by Bors] - feat(GroupTheory/Nilpotent): elements with coprime orders commute

### PR DESCRIPTION
**Pull request by thomaskwaring**
In a nilpotent group, elements with (finite) coprime order commute.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/Nilpotent.lean [hunk 1]
```diff
@@ -1198,6 +1198,24 @@ theorem normalizerCondition_of_isNilpotent [h : IsNilpotent G] : NormalizerCondi
     apply map_injective_of_ker_le (mk' (center G)) hkh le_top
     exact (ih H' hH').trans (symm (map_top_of_surjective _ hsur))
 
+theorem IsNilpotent.commute_of_orderOf_coprime {G : Type*} [Group G] [Group.IsNilpotent G]
```
Comment (tb65536) [inline Mathlib/GroupTheory/Nilpotent.lean]: Is there an existing `{G : Type*} [Group G]` you can use?

Comment (thomaskwaring) [reply Mathlib/GroupTheory/Nilpotent.lean]: ahh of course, thanks

File: Mathlib/GroupTheory/Commutator/Basic.lean [hunk 2]
```diff
@@ -84,6 +84,22 @@ theorem commutatorElement_mul_right_eq_mul_conj (a b c : G) :
     ⁅a, b * c⁆ = ⁅a, b⁆ * b * ⁅a, c⁆ * b⁻¹ := by
   simp [mul_assoc, commutatorElement_def]
 
+@[to_additive]
+theorem commutatorElement_pow_left_of_commute {a b : G} (h : Commute a ⁅a, b⁆) (n : ℕ) :
```
Comment (tb65536) [inline Mathlib/GroupTheory/Commutator/Basic.lean]: Maybe `Commute.commutator_pow_left` for dot-notation?

File: Mathlib/GroupTheory/Nilpotent.lean [hunk 3]
```diff
@@ -1198,6 +1198,26 @@ theorem normalizerCondition_of_isNilpotent [h : IsNilpotent G] : NormalizerCondi
...
+    intro G _ _ ih x y h
+    have hcomm : ∀ g : G, Commute g ⁅x, y⁆ := by
+      simp_rw [commute_iff_eq, ←mem_center_iff, ←QuotientGroup.eq_one_iff, ←QuotientGroup.mk'_apply,
+        map_commutatorElement, commutatorElement_eq_one_iff_commute]
+      apply ih _ _ <| h.of_dvd ?_ ?_ <;> apply orderOf_map_dvd
+    rw [←commutatorElement_eq_one_iff_commute, ←orderOf_eq_one_iff, ←Nat.dvd_one, ←h.gcd_eq_one,
+      Nat.dvd_gcd_iff, orderOf_dvd_iff_pow_eq_one, orderOf_dvd_iff_pow_eq_one,
+      commutatorElement_pow_left_of_commute (hcomm x),
+      commutatorElement_pow_right_of_commute (hcomm y)]
+    simp
```
Comment (tb65536) [inline Mathlib/GroupTheory/Nilpotent.lean]:
```suggestion
theorem IsNilpotent.commute_of_orderOf_coprime [IsNilpotent G] {x y : G}
    (h : (orderOf x).Coprime (orderOf y)) : Commute x y := by
  revert x y
  apply @nilpotent_center_quotient_ind _ G _ _ (by simp +contextual)
  intro G _ _ ih x y h
  have hcomm : ∀ g : G, Commute g ⁅x, y⁆ := by
    simp_rw [commute_iff_eq, ← mem_center_iff, ← eq_one_iff, ← mk'_apply,
      map_commutatorElement, commutatorElement_eq_one_iff_commute]
    apply ih <| h.of_dvd ?_ ?_ <;> apply orderOf_map_dvd
  rw [← commutatorElement_eq_one_iff_commute, ← orderOf_eq_one_iff, ← Nat.dvd_one, ← h.gcd_eq_one,
    Nat.dvd_gcd_iff, orderOf_dvd_iff_pow_eq_one, orderOf_dvd_iff_pow_eq_one,
    (hcomm x).commutatorElement_pow_left, (hcomm y).commutatorElement_pow_right]
  simp
```

Comment (thomaskwaring) [reply Mathlib/GroupTheory/Nilpotent.lean]: thanks!

File: Mathlib/GroupTheory/Commutator/Basic.lean [hunk 4]
```diff
@@ -84,6 +84,22 @@ theorem commutatorElement_mul_right_eq_mul_conj (a b c : G) :
...
+  | succ n ih => rw [pow_succ, pow_succ', commutatorElement_mul_left_eq_conj_mul, ← ih, h.pow_right,
+      mul_inv_cancel_right]
+
+@[to_additive]
+theorem Commute.commutatorElement_pow_right {a b : G} (h : Commute b ⁅a, b⁆) (n : ℕ) :
+    ⁅a, b⁆ ^ n = ⁅a, b ^ n⁆ := by
+  induction n with
+  | zero => simp
+  | succ n ih => rw [pow_succ', pow_succ', commutatorElement_mul_right_eq_mul_conj, ←ih, mul_assoc,
+      mul_assoc ⁅a, b⁆, mul_left_cancel_iff, ←mul_assoc, h.pow_right, mul_inv_cancel_right]
```
Comment (tb65536) [inline Mathlib/GroupTheory/Commutator/Basic.lean]:
```suggestion
@[to_additive]
theorem Commute.commutatorElement_pow_right {a b : G} (h : Commute b ⁅a, b⁆) (n : ℕ) :
    ⁅a, b⁆ ^ n = ⁅a, b ^ n⁆ := by
  induction n with
  | zero => simp
  | succ n ih =>
    simp [pow_succ', commutatorElement_mul_right_eq_mul_conj, ← ih, (h.pow_right n).right_comm]

@[to_additive]
theorem Commute.commutatorElement_pow_left {a b : G} (h : Commute a ⁅a, b⁆) (n : ℕ) :
    ⁅a, b⁆ ^ n = ⁅a ^ n, b⁆ := by
  rw [← commutatorElement_inv, inv_pow, commutatorElement_pow_right, commutatorElement_inv]
  simpa using h.inv_right
```

**Review by tb65536 — APPROVED** [review]
This is looking good to me, but given my involvement now, I think someone else should look this over.

**Comment by thomaskwaring** [comment]
sounds good @tb65536, i really appreciate your help with this & the other pr :)

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

File: Mathlib/GroupTheory/Nilpotent.lean [hunk 5]
```diff
@@ -1198,6 +1198,22 @@ theorem normalizerCondition_of_isNilpotent [h : IsNilpotent G] : NormalizerCondi
     apply map_injective_of_ker_le (mk' (center G)) hkh le_top
     exact (ih H' hH').trans (symm (map_top_of_surjective _ hsur))
 
+/-- In a nilpotent group, two elements commute when their orders are coprime. -/
```
Comment (faenuccio) [inline Mathlib/GroupTheory/Nilpotent.lean:1203]: Can you please add this line also in the doc-string at the top of the file?

File: Mathlib/GroupTheory/Nilpotent.lean [hunk 6]
```diff
@@ -1198,6 +1198,22 @@ theorem normalizerCondition_of_isNilpotent [h : IsNilpotent G] : NormalizerCondi
...
+@[to_additive /-- In a nilpotent group, two elements commute when their orders are coprime. -/]
```
Comment (faenuccio) [inline Mathlib/GroupTheory/Nilpotent.lean]:
```suggestion
@[to_additive /-- In a nilpotent additive group, two elements commute when their orders are coprime. -/]
```

**Review by faenuccio — COMMENTED** [review]
Thanks! Please take into account the two small doc modifications, and then feel free to merge yourself.

**Comment by faenuccio** [comment]
bors d+

**Comment by thomaskwaring** [comment]
thanks!

bors r+
